US09120789B2
Tert-butyl 4-(3-amino-2-(methylamino)pyridin-4-yloxy)-2-fluorophenylcarbamate
Tert-butyl 2-fluoro-4-(2-(methylamino)-3-nitropyridin-4-yloxy)phenylcarbamate (5.3 mg, 14 mmol) was dissolved in absolute ethanol (600 mL) and hydrogenated on a 10% Pd/C cartridge through an H-Cube apparatus, to give the title compound as a yellow solid.

reactant | Tert-butyl 2-fluoro-4-(2-(methylamino)-3-nitropyridin-4-yloxy)phenylcarbamate | 14 mmol, 5.3 mg | FC1=C(C=CC(=C1)OC1=C(C(=NC=C1)NC)[N+](=O)[O-])NC(OC(C)(C)C)=O | C17H19FN4O5
solvent | ethanol | 600 mL | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | Tert-butyl 4-(3-amino-2-(methylamino)pyridin-4-yloxy)-2-fluorophenylcarbamate | quantitative yield | NC=1C(=NC=CC1OC1=CC(=C(C=C1)NC(OC(C)(C)C)=O)F)NC | C17H21FN4O3
